US09108921B2
Step D: (E)-4-(4,4,4-trifluorobut-1-enyl)piperidin-4-ol (44E)
A solution of (E)-tert-butyl 4-hydroxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate (200 mg, 0.65 mmol) in 3M HCl/1,4-dioxane (5 mL) was stirred at room temperature for 2 hours. The solution was evaporated to dryness under reduced pressure to give the product which was used in the next step without further purification. LC-MS: m/z 210.2 (M+H)+.

reactant | (E)-tert-butyl 4-hydroxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate | 0.65 mmol, 200 mg | OC1(CCN(CC1)C(=O)OC(C)(C)C)\C=C\CC(F)(F)F | C14H22F3NO3
solvent | HCl 1,4-dioxane | 3M, 5 mL | Cl.O1CCOCC1
product | (E)-4-(4,4,4-trifluorobut-1-enyl)piperidin-4-ol | FC(C/C=C/C1(CCNCC1)O)(F)F | C9H14F3NO
